US04486428
5-Hydroxy-2,2-dimethyl-7-(1,1-dimethylheptyl)-3-(2-p-toluenesulfonylaminoethyl)-1,2,3,4-tetrahydroquinoline
To 20 ml of methylene chloride is added 346 mg (1 mmole) dl-5-hydroxy-3-(2-aminoethyl)-7-(1,1-dimethylheptyl)-2,2-dimethyl-1,2,3,4-tetrahydroquinoline and 0.166 ml (1.2 mmole) triethylamine. The solution is cooled to -20° C. and a solution of 191 mg (1 mmole) p-toluenesulfonyl chloride in 10 ml methylene chloride is added dropwise over ten minutes. The mixture is allowed to warm to 0° C., poured into ice/water and the layers separated. The aqueous layer is extracted with fresh methylene chloride, the combined organic layers washed with water, saturated sodium bicarbonate solution, brine and dried over anhydrous magnesium sulfate. Evaporation of solvent affords the crude product which is purified by chromatography on silica gel.

reactant | dl-5 hydroxy-3-(2-aminoethyl)-7-(1,1-dimethylheptyl)-2,2-dimethyl-1,2,3,4-tetrahydroquinoline | 1 mmole, 346 mg | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ON1C(C(CC2=CC=C(C=C12)C(CCCCCC)(C)C)CCN)(C)C
reactant | triethylamine | 1.2 mmole, 0.166 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 1 mmole, 191 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-Hydroxy-2,2-dimethyl-7-(1,1-dimethylheptyl)-3-(2-p-toluenesulfonylaminoethyl)-1,2,3,4-tetrahydroquinoline | OC1=C2CC(C(NC2=CC(=C1)C(CCCCCC)(C)C)(C)C)CCNS(=O)(=O)C1=CC=C(C=C1)C | C29H44N2O3S
